US07091215B2
N-[7-(2,4-Dichlorophenyl)-2-methylthiopyrazolo[1,5-a]pyridin-3-yl]-N,N-dipropylamine
N-[7-(2,4-dichlorophenyl)-2-methylthiopyrazolo[1,5-a]pyridin-3-yl]-N-propylamine (59 mg) was dissolved in tetrahydrofuran (1 mL), and after adding propionaldehyde (0.035 mL) and 3 M aqueous sulfuric acid (0.16 mL), sodium borohydride (12 mg) was added in five portions while vigorously stirring on ice, and stirring was continued for 30 minutes. Water was added to the reaction mixture, extraction was performed with diethyl ether and the extract was washed with saturated aqueous sodium hydrogencarbonate and brine. After drying over anhydrous magnesium sulfate and filtration, the solvent was concentrated under reduced pressure, the residue was purified by silica gel column chromatography, and the title compound (49 mg) was obtained from the n-hexane:ethyl acetate (100:1) fraction as a yellow oil.

reactant | N-[7-(2,4-dichlorophenyl)-2-methylthiopyrazolo[1,5-a]pyridin-3-yl]-N-propylamine | 59 mg | ClC1=C(C=CC(=C1)Cl)C1=CC=CC=2N1N=C(C2NCCC)SC | C17H17Cl2N3S
reactant | propionaldehyde | 0.035 mL | C(CC)=O | C3H6O
reactant | sulfuric acid | 3 M, 0.16 mL | S(O)(O)(=O)=O | H2O4S
reactant | sodium borohydride | 12 mg | [BH4-].[Na+]
solvent | tetrahydrofuran | 1 mL | O1CCCC1 | C4H8O
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | Water | O | H2O
product | N-[7-(2,4-Dichlorophenyl)-2-methylthiopyrazolo[1,5-a]pyridin-3-yl]-N,N-dipropylamine | 49 mg | ClC1=C(C=CC(=C1)Cl)C1=CC=CC=2N1N=C(C2N(CCC)CCC)SC | C20H23Cl2N3S
